### ISSUE TITLE
simp produces a term that doesn't typecheck

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#2021]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`simp` sometimes generates a proof that doesn't typecheck

### Steps to Reproduce

```lean
import Init.WF
import Init.WFTactics
import Init.Data.Nat.Basic
namespace Nat

protected def modCore (y : Nat) : Nat → Nat → Nat
  | Nat.zero, x => x
  | Nat.succ fuel, x => if 0 < y ∧ y ≤ x then Nat.modCore y fuel (x - y) else x

protected def mod' (x y : @& Nat) : Nat :=
Nat.modCore y x x

@[simp] theorem zero_mod' (b : Nat) : Nat.mod' 0 b = 0 := rfl

end Nat

namespace Nat

private def gcdF' (x : Nat) : (∀ x₁, x₁ < x → Nat → Nat) → Nat → Nat :=
  match x with
  | 0      => fun _ y => y
  | succ x => fun f y => f (Nat.mod' y (succ x)) sorry (succ x)

noncomputable def gcd' (a b : Nat) : Nat :=
  WellFounded.fix (measure id).wf gcdF' a b

@[simp] theorem gcd'_zero_left (y : Nat) : gcd' 0 y = y :=
  rfl

theorem gcd'_succ (x y : Nat) : gcd' (succ x) y = gcd' (Nat.mod' y (succ x)) (succ x) :=
  rfl   -- replace with `id rfl` and everything is ok

--              VVVVVVVVVVVVVVV error here
@[simp] theorem gcd'_zero_right (n : Nat) : gcd' n 0 = n := by
  cases n <;> simp [gcd'_succ]

end Nat
```

**Expected behavior:** `simp` should either succeed, or give a tactic failure

**Actual behavior:** `simp` succeeds, but the kernel rejects the proof with
```
application type mismatch
  @Eq.ndrec Nat (succ n✝) (fun n => gcd' n 0 = n) (of_eq_true (eq_self (succ n✝)))
argument has type
  succ n✝ = succ n✝
but function has type
  (fun n => gcd' n 0 = n) (succ n✝) → ∀ {b : Nat}, succ n✝ = b → (fun n => gcd' n 0 = n) b
```

**Reproduces how often:** 100%

### Versions

```bash
$ ~/.elan/bin/lean --version
Lean (version 4.0.0-nightly-2023-01-08, commit 74b3d101e967, Release)
```

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by nomeata** [comment]
The fact that `gcd'_succ` is by `rfl`, but not instantiations of it, is a known problem with well-founded recursion. It is one motivation for making well-founded recursion proofs opaque, so that when using `termination_by`, users do not run into this any more. Of course it can still be observed when using `WellFounded.fix` directly, as shown here. There are no urgent plans to fix that.
